2185-07-02 07:55:00 Physician Attending Progress Note
Chief Complaint: DKA in setting of ?CAP
   HPI:
   24yo with poorly-controlled DM type 1, complicated by retinopathy,
   neuropathy, nephropathy and HTN admitted with c/o nausea/vomiting, abd
   pain and dry cough found to be in DKA and acute-on-chronic renal
   failure in setting of likely L. sided CAP vs aspiration pneumonia /
   pneumonitis.
   24 Hour Events:
   1) Overnight patient became hypoglycemic in setting of receiving a
   large dose of exogenous insulin.
         - Patient started on continuous D51/2NS infusion, with 4 boluses
   of D50.
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-7-1**] 08:30 PM
   Levofloxacin-
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-7-1**] 08:00 PM
   Lorazepam (Ativan) - [**2185-7-1**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2185-7-1**] 10:00 PM
   Dextrose 50% - [**2185-7-2**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-2**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 88 (81 - 102) bpm
   BP: 133/81(93) {98/57(67) - 158/96(109)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 100%
             Total In:
                                                                  5,812 mL
                                                                  1,040 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    962 mL
                                                                    940 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                  1,050 mL
   Urine:
                                                                    650 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,162 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.26/38/121/19/-9
   Physical Examination
   Somnolent, uncooperative
   Lungs CTA-bilat
   RRR no m/r/g
   Abd soft NTND NBS
   LE warm and dry.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   232 K/uL
   197 mg/dL
   7.1 mg/dL
   19 mEq/L
   4.6 mEq/L
   56 mg/dL
   107 mEq/L
   137 mEq/L
   25.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2185-7-1**]  05:13 PM
                             [**2185-7-1**]  05:20 PM
                             [**2185-7-1**]  07:27 PM
                             [**2185-7-1**]  09:32 PM
                             [**2185-7-1**]  11:32 PM
                             [**2185-7-2**]  02:32 AM
   WBC
   12.3
   Hct
   25.0
   Plt
   232
   Cr
   7.3
   7.5
   7.4
   7.1
   7.1
   TCO2
   18
   Glucose
   [**Telephone/Fax (3) 9191**]9
   197
   Other labs: Differential-Neuts:76.6 %, Lymph:18.0 %, Mono:4.4 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   24yo with DM1 admit with DKA and acute-on-chronic renal failure in
   setting of ?  L. sided pneumonia / pneumonitis.
   1. Pneumonia
       - CXR unimpressive; ? spine sign may be more of a pneumonitis.
       - Is being treated with Ceftriaxone / Levofloxacin for 7 days
 can
   taper to FQ only x 5 days (renally dosed)
       - F/u sputum cutlures, urine strep Ag and urine legionella Ag,
   viral panel.
   2. DKA
       - Likely  Precipitated by infection vs med compliance
       - AG has closed, sugars improved.
       - Continue to monitor q1hr finger-stick's given high levels of
   exogenous insulin in the setting of renal failure.
       - Patient not eating; will continue insulin gtt
       - Can check BMPs q8hr
       - Based on 24hr insulin needs will determine daily SQ insulin
   regimen
       - Will notify patient's outpatient endocrinologist
   3. Abd pain, nausea
       - Likely secondary to gastroparesis.  Will correct sugars and when
   they are stable will start promotility agents.
       - Patient with bowel movements, so obstruction less likely.
   3. Renal failure
       - Patient with acute-on-chronic CKD, though baseline is ~ stage
   [**5-8**].
       - [**Name6 (MD) 59**] acute RRT needs
       - [**Name2 (NI) **] likely soon need initiation of RRT given progression of
   chronic disease. Renal team following
       - Needs Vit D repletion, Nephrocaps
   4) Anemia
        - Will guiac stools
        - Likely secondary to CKD and decreased erythropoiesis
   4. ICU
        - Full Code
        - Access=  fem TLC; poor access will keep for 24 hours
        - Prophylactics= SQ heparin
        - Communication= Mother, [**Name (NI) 9192**]
s Dept
        - Disposition=  Will montior in ICU today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-7-1**] 04:20 PM
   Multi Lumen - [**2185-7-1**] 05:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Both GI and respiratory infectious symptoms leading to DKA. Remains on
   an insulin drip, not taking Pos.
   Exam notable for Tmax: 36.7
C (98.1
F) Tcurrent: 36.7
C ([**Age over 90 **]
F)  HR:
   88 (81 - 102) bpm  BP: 133/81(93) {98/57(67) - 158/96(109)} mmHg  RR:
   15 (12 - 20) insp/min   SpO2: 100%
   No distress, lungs clear, RRR, abd benign, no edema
   Labs notable for AG 11, creatinine stable at 7.1, Hct 25
 stable, WBC
   down to 11
   Problems: DKA, nausea, renal failure, LLL pna
   Agree with plan to continue insulin and D5 until taking PO
s, follow
   lytes, urine output, continue antibiotics
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2185-7-2**] 13:51 ------

2185-07-02 07:57:00 Physician Resident Progress Note
Chief Complaint: abdominal pain, cough, DKA
   24 Hour Events:
   - refused foley
   - hypoglycemic following aggressive insulin drip titration soon after
   arrival to micu
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-7-1**] 08:30 PM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-7-1**] 08:00 PM
   Lorazepam (Ativan) - [**2185-7-1**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2185-7-1**] 10:00 PM
   Dextrose 50% - [**2185-7-2**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Still coughing. Denies any nausea, shortness of breath.
   Flowsheet Data as of  [**2185-7-2**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 88 (81 - 102) bpm
   BP: 133/81(93) {98/57(67) - 158/96(109)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 100%
             Total In:
                                                                  5,812 mL
                                                                  1,044 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    962 mL
                                                                    944 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                  1,050 mL
   Urine:
                                                                    650 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,162 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.26/38/121/19/-9
   Physical Examination
   Lying in bed, no acute distress
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally, no rales or wheezing
   Abd soft nontender +bowel sounds
   Extrem warm no edema
   Following commands, answering appropriately, moving all extremities
   Labs / Radiology
   232 K/uL
   8.3 g/dL
   197 mg/dL
   7.1 mg/dL
   19 mEq/L
   4.6 mEq/L
   56 mg/dL
   107 mEq/L
   137 mEq/L
   25.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2185-7-1**]  05:13 PM
                             [**2185-7-1**]  05:20 PM
                             [**2185-7-1**]  07:27 PM
                             [**2185-7-1**]  09:32 PM
                             [**2185-7-1**]  11:32 PM
                             [**2185-7-2**]  02:32 AM
   WBC
   12.3
   Hct
   25.0
   Plt
   232
   Cr
   7.3
   7.5
   7.4
   7.1
   7.1
   TCO2
   18
   Glucose
   [**Telephone/Fax (3) 9191**]9
   197
   Other labs: Differential-Neuts:76.6 %, Lymph:18.0 %, Mono:4.4 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.0 mg/dL
   Micro
   [**7-1**] blood cx NGTD
   [**7-1**] flu DFA - collected
   Assessment and Plan
   This 24year old man with poorly controlled DM and HTN with ESRD not yet
   on HD presents with DKA.
   * DKA
   Glucose out of control in setting of insulin noncompliance, possibly
   with an underlying pneumonia versus URI.
   Hypoglycemia likely due to aggressive insulin drip last night with
   delayed insulin clearance in setting of ESRD.
   Anion gap has closed, however, patient unable to eat at this time.
   - Continue insulin drip until patient eating
   - Continue volume resuscitation 1/2NS/20Kcl @100/hr (got 4L in ER),
   watching volume status carefully given ESRD.
   - Q8H labs, cautious K/Mg repletion given ESRD
   - Check urine/serum ketones
   - F/U flu swab, sputum and blood cultures
   * Pneumonia, possible
   Possible "spine sign" on chest film, along with cough and chills
   worrisome for pna. Nasal congestion raises the question of viral
   illness, esp flu. Is at risk for aspiration with recent n/v could have
   gastroparesis given poorly controlled dm
   - Continue empiric levofloxacin to complete a 5-day course
   - Discontinue ceftriaxone at this time
   - Check sputum GS/cx and flu swab
   - Repeat CXR this AM stable
   * Abdominal pain
   Resolved.
   Probably due to DKA. Abdominal exam benign. LFTs/lipase unremarkable.
   - Hold off on abdominal imaging at this point
   * Acute on chronic renal failure
   Cr elevated from recent discharge, though at this degree corresponding
   to a relatively small additional decrement in GFR. Improved with
   hydration in ER, so likely prerenal component not surprising given
   recent poor PO. Does not appear volume overloaded, K now controlled, no
   definite symptoms of uremia. ABG c/w metabolic acidosis, but not
   marked.
   - Renal evaluation
   - Follow urine output, Cr, renally dose meds and avoid nephrotoxins
   * Anemia
   Normocytic. Hct slightly below baseline, probably due to renal disease
   - Follow CBC daily
   - Guiac stools
   - Continue epo
   * HTN
   Continue home amlodipine, metoprolol, hydralazine.
   * LBP
   Continue acetaminophen prn pain.
   ICU Care
   Nutrition: sips advance as tolerated
   Glycemic Control:  Insulin infusion
   Lines:
   22 Gauge - [**2185-7-1**] 04:20 PM
   Multi Lumen - [**2185-7-1**] 05:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: None needed
   VAP:  n/a
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2185-07-03 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: DKA
   24 Hour Events:
   - influenza A positive, sent to state lab
   - d/c'd CTX
   - ate overnight, gave glargine, d/c'd insulin gtt
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-7-1**] 08:30 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2185-7-3**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-3**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 91 (79 - 100) bpm
   BP: 133/90(99) {123/73(87) - 161/93(109)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 97%
             Total In:
                                                                  3,111 mL
                                                                    102 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,721 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                      0 mL
   Urine:
                                                                  3,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     61 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///15/
   Physical Examination
   Lying in bed, no acute distress
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally, no rales or wheezing
   Abd soft nontender +bowel sounds
   Extrem warm no edema
   Following commands, answering appropriately, moving all extremities
   Labs / Radiology
   233 K/uL
   8.6 g/dL
   125 mg/dL
   6.9 mg/dL
   15 mEq/L
   4.6 mEq/L
   43 mg/dL
   112 mEq/L
   138 mEq/L
   26.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2185-7-1**]  05:13 PM
                             [**2185-7-1**]  05:20 PM
                             [**2185-7-1**]  07:27 PM
                             [**2185-7-1**]  09:32 PM
                             [**2185-7-1**]  11:32 PM
                             [**2185-7-2**]  02:32 AM
                             [**2185-7-2**]  05:59 AM
                             [**2185-7-2**]  12:42 PM
                             [**2185-7-2**]  08:45 PM
                             [**2185-7-3**]  04:48 AM
   WBC
   12.3
   11.2
   9.3
   Hct
   25.0
   25.7
   26.3
   Plt
   232
   229
   233
   Cr
   7.3
   7.5
   7.4
   7.1
   7.1
   6.9
   7.1
   7.1
   6.9
   TCO2
   18
   Glucose
   [**Telephone/Fax (3) 9191**]9
   197
   163
   86
   211
   125
   Other labs: Differential-Neuts:76.6 %, Lymph:18.0 %, Mono:4.4 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   24year old man with poorly controlled DM and HTN with ESRD not yet on
   HD presents with DKA.
   * DKA
   Glucose out of control in setting of insulin noncompliance, possibly
   with an underlying pneumonia versus URI.
   Hypoglycemia likely due to aggressive insulin drip last night with
   delayed insulin clearance in setting of ESRD.
   Patient fluid rescucitated.
   Patient able to eat early this morning, shut off insulin gtt at
   midnight without opening of gap.
   - Positive for influenza A
   - Treating for PNA as below
   * Pneumonia, possible
   Possible "spine sign" on chest film, along with cough and chills
   worrisome for pna. Nasal congestion raises the question of viral
   illness, esp flu. Is at risk for aspiration with recent n/v could have
   gastroparesis given poorly controlled dm
   - Continue empiric levofloxacin to complete a 5-day course
   - Discontinued ceftriaxone at this time
   - Check sputum GS/cx and flu swab
   - Repeat CXR this AM stable
   * Abdominal pain
   Resolved.
   Probably due to DKA. Abdominal exam benign. LFTs/lipase unremarkable.
   - Hold off on abdominal imaging at this point
   * Acute on chronic renal failure
   Cr elevated from recent discharge, though at this degree corresponding
   to a relatively small additional decrement in GFR. Improved with
   hydration in ER, so likely prerenal component not surprising given
   recent poor PO. Does not appear volume overloaded, K now controlled, no
   definite symptoms of uremia. ABG c/w metabolic acidosis, but not
   marked.
   - Renal evaluation
   - Follow urine output, Cr, renally dose meds and avoid nephrotoxins
   * Anemia
   Normocytic. Hct slightly below baseline, probably due to renal disease
   - Follow CBC daily
   - Guaiac stools
   - Continue epo
   * HTN
   Continue home amlodipine, metoprolol, hydralazine.
   * LBP
   Continue acetaminophen prn pain.
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:  Regular insulin sliding scale, Comments: Glargine
   Lines:
   22 Gauge - [**2185-7-1**] 04:20 PM
   Multi Lumen - [**2185-7-1**] 05:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2185-07-03 10:19:00 Physician Attending Progress Note
Chief Complaint: Fatigue, mylagias, dry cough
   HPI:
   24yo with poorly controlled DM1 with neuropathy, retinopathy and
   nephropathy with stage 4-5 CKD admit with c/o dry cough, myalgias and
   fatigue.  Found to be in DKA
   24 Hour Events:
   - Found to be Influenza A positive --> swab sent to state lab to rule
   out H1N1
   - Started to take po yesterday
   - Insulin changed from IV to SQ
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-7-1**] 08:30 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2185-7-3**] 12:33 AM
   Other medications:
   Glargine 22u daily
   SQ heparin
   Levofloxacin 500mg q48hr
   Epo
   Hydralazine 50 q8hr
   Amlodipine 10mg daily
   Metoprolol 50mg [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-3**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 85 (79 - 100) bpm
   BP: 137/90(100) {123/73(87) - 161/94(109)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,111 mL
                                                                    102 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,721 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                      0 mL
   Urine:
                                                                  3,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     61 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   233 K/uL
   125 mg/dL
   6.9 mg/dL
   15 mEq/L
   4.6 mEq/L
   43 mg/dL
   112 mEq/L
   138 mEq/L
   26.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2185-7-1**]  05:13 PM
                             [**2185-7-1**]  05:20 PM
                             [**2185-7-1**]  07:27 PM
                             [**2185-7-1**]  09:32 PM
                             [**2185-7-1**]  11:32 PM
                             [**2185-7-2**]  02:32 AM
                             [**2185-7-2**]  05:59 AM
                             [**2185-7-2**]  12:42 PM
                             [**2185-7-2**]  08:45 PM
                             [**2185-7-3**]  04:48 AM
   WBC
   12.3
   11.2
   9.3
   Hct
   25.0
   25.7
   26.3
   Plt
   232
   229
   233
   Cr
   7.3
   7.5
   7.4
   7.1
   7.1
   6.9
   7.1
   7.1
   6.9
   TCO2
   18
   Glucose
   [**Telephone/Fax (3) 9191**]9
   197
   163
   86
   211
   125
   Other labs: Differential-Neuts:76.6 %, Lymph:18.0 %, Mono:4.4 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   24yo with poorly controlled diabetes and stage 5 CKD with influenza A
   + DM / DKA
      - Precipitated in setting of influenza
      - AG closed
      - Tolerating oral intake; now switched to SQ insulin.
      - Sugars have been stable, without hypoglycemic events for past 24
   hours
   + CKD
       - Creatinine at baseline
       - Electrolytes stable
       - Will f/u with transplant service as outpatient
       - will start bicarbonate repletion to keep HCO3~18
   + Influenza A
       - Although patient in high risk group for influenza (with potential
   for H1N1), patient is well beyong 48 hour mark, and more
          improtantly, has limited pulmonary and systemic symptoms.
   Patient DM well controlled now, and Cr backat baseline.
          Therefore, will defer starting anti-viral therapy.
       - No evidence pneumonia --> d/c Levofloxacin
   + Gastroparesis
       - Will start Reglan 5mg 30 min before meals
   + ICU
       - Access= d/c femoral TLC, has peripherals
       - FULL Code
       - Prophy- no need for DVt or GI
       - Dispo- call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-7-1**] 04:20 PM
   Multi Lumen - [**2185-7-1**] 05:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Critical Cared
   Present for the key portions of the fellow/resident
s history and exam.
   Agree substantially with assessment and plan as outlined during
   multidisciplinary rounds this morning.  Substantial episode of DKA in
   this young man with severe Type 1 DM.  Now converted to sq insulin and
   FS running 100
 200.  Gap has closed and he is eating. HCO3 still 15
   primarily reflecting hyperchloremia.  Nasal wash pos for Influenza A
   presumably H1N1.  Contacts notified.  Started on Tamiflu.  Respiratory
   precautions for 1 week.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2185-7-3**] 15:40 ------